US07037938B2
To a solution of ethyl 4′-[3-[(tert-butoxycarbonyl)-[(2R)-2-(6-chloro-3-pyridyl)-2-hydroxyethyl]amino]propyl]-2-methoxy-1,1′-biphenyl-4-carboxylate in ethanol (5.0 ml) was added 1N sodium hydroxide (1.0 ml) and the mixture was stirred for 2 hours at room temperature. The mixture was diluted with ethyl acetate and 1N hydrochloric acid. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=1/1) to give 4′-[3-[(tert-butoxycarbonyl)[(2R)-2-(6-chloro-3-pyridyl)-2-hydroxyethyl]amino]propyl]-2-methoxy-1,1′-biphenyl-4-carboxylic acid (100 mg).

reactant | ethyl 4′-[3-[(tert-butoxycarbonyl)-[(2R)-2-(6-chloro-3-pyridyl)-2-hydroxyethyl]amino]propyl]-2-methoxy-1,1′-biphenyl-4-carboxylate | C(C)(C)(C)OC(=O)N(CCCC1=CC=C(C=C1)C1=C(C=C(C=C1)C(=O)OCC)OC)C[C@H](O)C=1C=NC(=CC1)Cl | C31H37ClN2O6
reactant | sodium hydroxide | 1N, 1.0 ml | [OH-].[Na+]
solvent | ethanol | 5.0 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 1N | Cl | ClH
product | 4′-[3-[(tert-butoxycarbonyl)[(2R)-2-(6-chloro-3-pyridyl)-2-hydroxyethyl]amino]propyl]-2-methoxy-1,1′-biphenyl-4-carboxylic acid | 100 mg | C(C)(C)(C)OC(=O)N(CCCC1=CC=C(C=C1)C1=C(C=C(C=C1)C(=O)O)OC)C[C@H](O)C=1C=NC(=CC1)Cl | C29H33ClN2O6
